US08039472B2
Methyl indole-4-carboxylate (50 mg, 2.85 mmol) and 2-chloro-N,N-diethylacetamide (854 mg, 5.71 mmol) are dissolved in DMF (10 ml) and to the solution is added potassium carbonate (986 mg, 7.14 mmol). The reaction is heated using microwave radiation at 100° C. for 2 hours, then diluted with DCM (60 ml) and washed with water (5×10 ml). Drying over MgSO4, concentration in vacuo, and trituration with Et2O affords 1-Diethylcarbamoylmethyl-1H-indole-4-carboxylic acid methyl ester; [M+H]+ 289.

reactant | Methyl indole-4-carboxylate | 2.85 mmol, 50 mg | N1C=CC=2C(=CC=CC12)C(=O)OC | C10H9NO2
reactant | 2-chloro-N,N-diethylacetamide | 5.71 mmol, 854 mg | ClCC(=O)N(CC)CC | C6H12ClNO
reactant | potassium carbonate | 7.14 mmol, 986 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | DCM | 60 ml | C(Cl)Cl | CH2Cl2
product | 1-Diethylcarbamoylmethyl-1H-indole-4-carboxylic acid methyl ester | COC(=O)C=1C=2C=CN(C2C=CC1)CC(N(CC)CC)=O | C16H20N2O3
